US07498292B2
To a solution of 3,3-ethylenedioxydodecanoic acid (55 mg, 0.213 mmol) (Pearson et al., Proc. Natl Acad. Sci. USA 91:197-201 (1994); Bu et al., Synthetic agonists of a Pseudomonas aeruginosa quorum sensing molecule, submitted for publication, which are hereby incorporated by reference in their entirety) and trans-2-amino-cyclopentanol hydrochloride (35 mg, 0.256 mmol, purchased from Aldrich, 52,586-3) in anhydrous DMF (2 mL) was added successively EDC (49 mg, 0.256 mmol), DMAP (32 mg, 0.256 mmol), and i-Pr2NEt (45 μL, 0.256 mmol) at room temperature. The mixture was stirred for 18 hours. After removing DMF in vacuo, the residue was dissolved into ethyl acetate (20 mL) and washed with 0.1 M HCl saturated with NaCl (20 mL). The aqueous phase was extracted with ethyl acetate (3×40 mL). The combined organic extracts were dried over MgSO4 and concentrated to give a crude intermediate (57 mg, 79%). The 3,3-ethylenedioxy protective group was deprotected by treatment of the intermediate dissolved in 1 mL CH2C12 with 1 mL 95% TFA for 2 hours at room temperature. The organic solvent was briefly removed under reduced pressure, and the residue was mixed with saturated aqueous NaHCO3 followed by extraction with ethyl acetate (3×40 mL). The organic layers were combined and washed once with brine, and dried over MgSO4. After concentration, the residue was purified by flash chromatography on silica gel to give N-(trans-2- hydroxycyclopentyl)-3-oxododecanamide in the ketone form (14.8 mg, 0.050 mmol, Rf=0.42) and the enol form (19.2 mg, 0.065 mmol, Rf=0.15) in a total of 54% yield. Ketone form: IR (KBr) 3270, 2921, 1716, 1646, 1613, 1561 cm−1; 1H NMR (500 MHz, CDCl3) δ 0.88 (t, J=7 Hz, 3H), 1.20-1.35 (m, 12H), 1.48-1.52 (m, 1H), 1.58 (m, 2H), 1.60-1.78 (m, 2H), 1.81 (m, 1H), 2.05 (m, 1H), 2.16 (m, 1H), 2.52 (t, J=7 Hz, 2H), 3.42 (s, 2H), 3.84 (m, 1H), 3.98 (m, 1H), 4.24 (s, 1H), 7.40 (s, 1H); 13C (125 MHz, CDCl3): 14.1, 21.3, 22.6, 23.3, 28.95, 29.20, 29.30, 29.35, 30.3, 31.8, 32.6, 44.0, 47.9, 60.7, 79.5, 167.5, 207.4; EI-HRMS calc'd for C17H31O3N (M+) 297.2298. found 297.2299. Enol form: IR (KBr) 2918, 2952, 1655, 1424, 1365, 832 cm−1; 1H NMR (500 MHz, CDCl3) δ 0.88 (t, J=7.5 Hz, 3H), 1.20-1.38 (m, 12H), 1.52 (m, 2H), 1.62 (m, 1H), 1.78-1.96 (m, 3H), 2.15 (td, J=7 Hz, 1.5 Hz, 2H), 2.30 (m, 2H), 3.56 (m, 1H), 4.27 (m, 1H), 5.03 (d, J=1.5 Hz, 1H), 6.82 (s, 1H); 13C (125 MHz, CDCl3) δ 14.1, 21.1, 22.6, 27.6, 28.9, 29.24, 29.29, 29.42, 30.66, 30.69, 31.8, 36.6, 57.3, 87.8, 98.2, 165.6, 168.7; EI-HRMS calc'd for C17H29O2N (M-H2O) 279.2193. found 279.2197.

reactant | 3,3-ethylenedioxydodecanoic acid | 0.213 mmol, 55 mg | C1OC(CC(=O)O)(CCCCCCCCC)OC1 | C14H26O4
reactant | trans-2-amino-cyclopentanol hydrochloride | 0.256 mmol, 35 mg | Cl.N[C@H]1[C@@H](CCC1)O
reactant | EDC | 0.256 mmol, 49 mg
reactant | i-Pr2NEt | 0.256 mmol, 45 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.256 mmol, 32 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(trans-2- hydroxycyclopentyl)-3-oxododecanamide | 54% yield | O[C@H]1[C@@H](CCC1)NC(CC(CCCCCCCCC)=O)=O | C17H31NO3
